US07635715B2
Step B: Preparation of 2-(2,3-Dichlorophenyl)-2-methylpropanoic acid
A mixture of methyl 2-(2,3-dichlorophenyl)-2-methylpropanoate (5.50 g, 22.3 mmol) and KOH (6.24 g, 111 mmol) in EtOH/water (5:1, 150 mL) in a 500 mL round bottom flask, was heated at 95° C. for 18 hours. The solution was diluted with diethyl ether (200 mL), and washed with 1N NaOH(aq) (3×75 mL). The aqueous solution was made acidic (pH=2) with concentrated HCl. The mixture was then extracted with EtOAc (3×100 mL), and the combined organic layers were washed with deionized water (100 mL) and with brine (75 mL). The organic layer was then dried over MgSO4, concentrated, and dried in vacuo. The crude product was purified by flash column chromatography (silica, 0-100% DCM in hexane) to give the title compound (4.1338 g). MS m/e=233 (M+H)+.

reactant | methyl 2-(2,3-dichlorophenyl)-2-methylpropanoate | 22.3 mmol, 5.50 g | ClC1=C(C=CC=C1Cl)C(C(=O)OC)(C)C | C11H12Cl2O2
reactant | KOH | 111 mmol, 6.24 g | [OH-].[K+]
solvent | EtOH water | 150 mL | CCO.O
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
product | 2-(2,3-Dichlorophenyl)-2-methylpropanoic acid | 4.1338 g | ClC1=C(C=CC=C1Cl)C(C(=O)O)(C)C | C10H10Cl2O2
